US06908929B2
Step A Preparation of 2′-methyl-4′-chloropropoxyacetophenone
A mixture of 4′-hydroxy-2′-methyl-acetophenone (10.5 g) and 1-bromo-3-chloropropane (7.6 mL) in acetone (70 mL) was treated with potassium carbonate (14.5 g). The mixture was stirred at 50° C. for approximately 18 hours. The reaction mixture was cooled to ambient temperature and partitioned between dichloromethane (200 mL) and water (200 mL). The aqueous layer was washed twice with fresh portions of dichloromethane (200 mL) and brine was used to break any emulsions. The organic fractions were combined, dried over sodium sulfate, and evaporated. The residue was re-dissolved in dichloromethane (100 mL) and washed with 0.5 M sodium hydroxide (100 mL) and brine (100 mL), dried over magnesium sulfate, filtered and evaporated to give the title compound which was used without further purification.

reactant | 4′-hydroxy-2′-methyl-acetophenone | 10.5 g | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | 1-bromo-3-chloropropane | 7.6 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 2′-methyl-4′-chloropropoxyacetophenone | CC1=C(C=CC(=C1)OCCCCl)C(C)=O | C12H15ClO2
